US05439928
c) 4-(1-oxo-5-phenylpentyl)-1H-imidazole
5,5 g of 4-(1-hydroxy-5-phenylpentyl)-1H-imidazole and 7,0 g of manganese dioxide are refluxed stirring in tetrachloroethylene for four hours. The reaction mixture is filtered and the filtrate is evaporated to dryness. Water is added and the product is extracted into methylene chloride. The combined extracts are washed with water and evaporated to dryness.

reactant | 4-(1-hydroxy-5-phenylpentyl)-1H-imidazole | 5,5 g | OC(CCCCC1=CC=CC=C1)C=1N=CNC1 | C14H18N2O
solvent | tetrachloroethylene | ClC(=C(Cl)Cl)Cl | C2Cl4
catalyst | manganese dioxide | 7,0 g | [O-2].[O-2].[Mn+4]
product | 4-(1-oxo-5-phenylpentyl)-1H-imidazole | O=C(CCCCC1=CC=CC=C1)C=1N=CNC1 | C14H16N2O
